US05137895
B. 1-Methyl-1H-indazole-3-carboxylic acid methyl ester (Intermediate)
A solution of indazole-3-carboxylic acid methyl ester (2.76 g, 0.0159 mole) in dry dimethylformamide (20 ml) was added dropwise to a stirred suspension of 60% sodium hydride (oil dispersion) (0.67 g, 0.0176 mole) in dimethylformamide (50 ml). After the addition was completed and the evolution of the hydrogen ceased, the mixture was heated to 80° C. and then cooled to ambient temperature. A solution of methyl iodide (4.23 g, 0.030 mole) in dimethylformamide (10 ml) was added dropwise to the stirred reaction mixture. After stirring for 15 minutes, the mixture was warmed to 50° C. for 30 minutes, and then cooled to ambient temperature. The reaction mixture was diluted to a volume of 300 ml with ice/water and extracted with two 100 ml portions of methylene chloride. The extract was dried (magnesium sulfate), and concentrated to an oil. Dimethylformamide was distilled from the mixture and the residual oil was triturated with petroleum ether to obtain a solid. The solid (1.66 g, 55%) was collected by filtration and recrystallized from isooctane to give 1.20 g; mp 78°-79° C.

reactant | indazole-3-carboxylic acid methyl ester | 0.0159 mole, 2.76 g | COC(=O)C1=NNC2=CC=CC=C12 | C9H8N2O2
reactant | sodium hydride | 0.0176 mole, 0.67 g | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | methyl iodide | 0.030 mole, 4.23 g | CI | CH3I
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 1-Methyl-1H-indazole-3-carboxylic acid methyl ester | COC(=O)C1=NN(C2=CC=CC=C12)C | C10H10N2O2
